US06313116B1
2-Cyclopropyl-4-methoxybenzothiazole-7-carboxylic acid (3,5-dimethylisoxazol-4-yl)amide
Starting from 2-cyclopropyl-4-methoxybenzothiazole-7-carboxylic acid (0.20 g), oxalyl chloride (0.11 ml), dichloromethane (30 ml) and dimethylformamide (1 drop), followed by 3,5-dimethylisoxazol-4-amine (0.20 g), triethylamine (0.22 ml) and dichloromethane (30 ml). Purification by flash chromatography (eluent 50% ethyl acetate/heptane) yielded the title compound as a white solid (0.067 g). TLC Rf 0.33 (ethyl acetate); Mpt 196-197° C.

reactant | 2-cyclopropyl-4-methoxybenzothiazole-7-carboxylic acid | 0.20 g | C1(CC1)C=1SC2=C(N1)C(=CC=C2C(=O)O)OC | C12H11NO3S
reactant | oxalyl chloride | 0.11 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,5-dimethylisoxazol-4-amine | 0.20 g | CC1=NOC(=C1N)C | C5H8N2O
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.22 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-Cyclopropyl-4-methoxybenzothiazole-7-carboxylic acid (3,5-dimethylisoxazol-4-yl)amide | 0.067 g | CC1=NOC(=C1NC(=O)C1=CC=C(C=2N=C(SC21)C2CC2)OC)C | C17H17N3O3S
